US04918073
(c) 1-[4,4-Bis(4-fluorophenyl)butyl]-4-methylaminopiperidine
13.0 g (31.3 mmol) of 1-[4,4-bis(4-fluorophenyl)butyl]-4-ethoxycarbonylaminopiperidine were dissolved in 60 ml of absolute tetrahydrofuran, the solution was added dropwise to a suspension of 1.82 g (46.9 mmol) of LiAlH4 in 60 ml of absolute tetrahydrofuran and the mixture was stirred at room temperature for 1 hour and at 40° C. for 1 hour. 1.8 ml of H2O, 1.8 ml of 2N NaOH and a further 9 ml of H2O were added dropwise in succession, with cooling; the precipitate formed was then filtered off with suction and rinsed with a little tetrahydrofuran and the filtrate was dried and concentrated.

reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-4-ethoxycarbonylaminopiperidine | 31.3 mmol, 13.0 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)NC(=O)OCC)C1=CC=C(C=C1)F | C24H30F2N2O2
reactant | LiAlH4 | 46.9 mmol, 1.82 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1.8 ml | O | H2O
reactant | NaOH | 2N, 1.8 ml | [OH-].[Na+]
reactant | H2O | 9 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-[4,4-Bis(4-fluorophenyl)butyl]-4-methylaminopiperidine | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)NC)C1=CC=C(C=C1)F | C22H28F2N2
